US09278950B2
A mixture of 3-{[(benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinoline-2-carboxylic acid (0.014 g, 0.034 mmol), tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-methylpiperidin-3-yl]carbamate (0.013 g, 0.041 mmol) and HATU (0.033 g, 0.086 mmol) in DMF (0.14 mL) and DIPEA (0.018 mL, 0.10 mmol) was stirred at room temperature for 2 h. The mixture was diluted with 5 mL of EtOAc and 3 mL of 1 M NaOH. The layers were separated and the aqueous layer was extracted with EtOAc. The organic layers were combined and concentrated under reduced pressure. The residue was purified by flash chromatography on 20 g silica gel column, eluting with 0-30% MeOH in EtOAc, to yield an amide intermediate, benzyl (2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-morpholin-4-ylquinolin-3-yl)carbamate. LCMS calc. for C38H46N7O6 [M+H]+: m/z=696.3. found: 696.5.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinoline-2-carboxylic acid | 0.034 mmol, 0.014 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCOCC1)C(=O)O | C22H21N3O5
reactant | tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-methylpiperidin-3-yl]carbamate | 0.041 mmol, 0.013 g | NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C)NC(OC(C)(C)C)=O | C16H26N4O2
reactant | HATU | 0.086 mmol, 0.033 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.10 mmol, 0.018 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.14 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | NaOH | 1 M, 3 mL | [OH-].[Na+]
product | benzyl (2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-morpholin-4-ylquinolin-3-yl)carbamate | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CCOCC1 | C38H45N7O6
